US04234735
To a solution of 2-guanidino-4-(4-aminobutyl)thiazole (0.8 g.) in ethanol (10 ml.) was added dimethyl (cyanoimido)dithiocarbonate (0.6 g.). The mixture was stirred overnight. The white precipitate was filtered off and recrystallized from acetonitrile to give 2-guanidino-4-[4-(3-cyano-2-methylisothioureido)butyl]thiazole, m.p. 178°-180° C.

reactant | 2-guanidino-4-(4-aminobutyl)thiazole | 0.8 g | N(C(=N)N)C=1SC=C(N1)CCCCN | C8H15N5S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-guanidino-4-[4-(3-cyano-2-methylisothioureido)butyl]thiazole | N(C(=N)N)C=1SC=C(N1)CCCCNC(SC)=NC#N | C11H17N7S2
